US07745641B2
In a similar manner to Step 1 of Reference Example 1, 5-formylindole (1.00 g, 6.89 mmol) was treated with di-tert-butyldicarbonate (2.40 mL, 10.3 mmol) and DMAP (0.00840 g, 0.0688 mmol). Then, the mixture was treated with trimethyl orthoformate (1.50 mL, 13.8 mmol) and p-toluenesulfonic acid monohydrate (0.00260 g, 0.138 mmol) to obtain 1-(tert-butoxycarbonyl)-4-(dimethoxymethyl)indole (2.00 g, yield 99%).

reactant | 5-formylindole | 6.89 mmol, 1.00 g | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | di-tert-butyldicarbonate | 10.3 mmol, 2.40 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | trimethyl orthoformate | 13.8 mmol, 1.50 mL | C(OC)(OC)OC | C4H10O3
catalyst | DMAP | 0.0688 mmol, 0.00840 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | p-toluenesulfonic acid monohydrate | 0.138 mmol, 0.00260 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-(tert-butoxycarbonyl)-4-(dimethoxymethyl)indole | 2.00 g, yield 99% | C(C)(C)(C)OC(=O)N1C=CC2=C(C=CC=C12)C(OC)OC | C16H21NO4
